US06384041B1
To a slurry of 5.4 mg (0.23 mmol) of sodium hydride in 1.0 mL of tetrahydrofuran was added 0.025 mL of thiophenol followed by 100 mg (0.21 mmol) of [[2-(methylsulfonyl)-5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester and the mixture heated to 55° C. for 18 hours. The reaction was cooled to ambient temperature and partitioned between 10 mL of methylene chloride and 10 mL of 0.2 M sodium hydrogen sulfate. The organic portion was dried with magnesium sulfate and concentrated to a solid. The crude material was purified by flash chromatography (5.0 g silica, ethyl acetate) to provide 52 mg (49%) of [[2-(phenylthio)-5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester as a white solid. nmr (500 MHz, CDCl3) δ1.14 (t, J=7.4 Hz, 3H), 2.94 (q, J=7.4 Hz, 2H), 3.72 (s, 3H), 4.81 (s, 2H), 5.34 (s, 2H), 5.59 (s, 1H), 6.54 (s, 1H), 7.10 (m, 2H), 7.28 (m, 3H), 7.40 (m, 3H), 7.62 (m, 2H)

reactant | sodium hydride | 0.23 mmol, 5.4 mg | [H-].[Na+]
reactant | thiophenol | 0.025 mL | C1(=CC=CC=C1)S | C6H6S
reactant | [[2-(methylsulfonyl)-5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 0.21 mmol, 100 mg | COC(COC=1C2=C(N=C(N1)S(=O)(=O)C)N(C(=C2C(C(=O)N)=O)CC)CC2=CC=CC=C2)=O | C21H22N4O7S
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | [[2-(phenylthio)-5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 52 mg, 49% | COC(COC=1C2=C(N=C(N1)SC1=CC=CC=C1)N(C(=C2C(C(=O)N)=O)CC)CC2=CC=CC=C2)=O | C26H24N4O5S
